US08492549B2
1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidin-3-ol
A mixture of 2-bromomethyl-2,3-dihydrobenzo[1,4]dioxine (2.26 g, 9.88 mmol), piperidin-3-ol (1.0 g, 9.88 mmol) and K2CO3 (6.8 g, 49.43 mmol) in DMF (30 ml) was heated under microwaves at 153° C. for 120 min to give the crude title compound after the usual work-up. The product was purified by column chromatography (DCM/MeOH, 98:2).

reactant | 2-bromomethyl-2,3-dihydrobenzo[1,4]dioxine | 9.88 mmol, 2.26 g | BrCC1COC2=C(O1)C=CC=C2 | C9H9BrO2
reactant | piperidin-3-ol | 9.88 mmol, 1.0 g | N1CC(CCC1)O | C5H11NO
reactant | K2CO3 | 49.43 mmol, 6.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidin-3-ol | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)O | C14H19NO3
